US07572817B2
2-[(6-Aminopyridin-3-yl)methyl]-5-(4-hydroxyphenyl)-3-mercaptopentanoic acid was synthesized from 2-[(6-aminopyridin-3-yl)methyl]-3-mercapto-5-(4-methoxyphenyl)pentanoic acid using standard conditions for the methoxy group hydrolysis (concentrated aqueous hydrochloric acid at reflux under argon for 24 h).

reactant | 2-[(6-aminopyridin-3-yl)methyl]-3-mercapto-5-(4-methoxyphenyl)pentanoic acid | NC1=CC=C(C=N1)CC(C(=O)O)C(CCC1=CC=C(C=C1)OC)S | C18H22N2O3S
reactant | hydrochloric acid | Cl | ClH
product | 2-[(6-Aminopyridin-3-yl)methyl]-5-(4-hydroxyphenyl)-3-mercaptopentanoic acid | NC1=CC=C(C=N1)CC(C(=O)O)C(CCC1=CC=C(C=C1)O)S | C17H20N2O3S
